US04123459
Thirty one grams (0.1 mole) of the product prepared in Example I-B is mixed with 300 mls water. 79 grams of strontium hydroxide (0.65 mole) is added slowly at 65°-70° C. while maintaining the pH at 10-10.5. The mixture is stirred for an additional three hours after the addition of the strontium hydroxide. The solution is cooled and 180 grams of 10% hydrochloric acid is added slowly to a pH of 1.3. The acidified solution is next evaporated to dryness in vacuo. The residue is extracted with acetone and the acetone extract is filtered and evaporated to dryness. There is thus obtained 23 g of residue containing 45.7% (60.5% yield) trans-aconitic acid and 10.7% of a mixture of the lactones of isocitric acid and alloisocitric acid.

reactant | strontium hydroxide | 0.65 mole, 79 grams | [OH-].[Sr+2].[OH-]
reactant | hydrochloric acid | 180 grams | Cl | ClH
reactant | isocitric acid | C(C(O)C(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 300 mls | O | H2O
product | trans-aconitic acid | 60.5% yield | C(/C(=C\C(=O)O)/C(=O)O)C(=O)O | C6H6O6
